US08304419B2
3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-bromobenzonitrile (0.41 g, 1.153 mmol) was combined with potassium isopropenyltrifluoroborate (0.189 g, 1.268 mmol), 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium(II) dichloromethane complex (0.034 g, 0.046 mmol) and TEA (0.241 mL, 1.730 mmol) in n-propanol (10 mL) and heated in a microwave reactor at 120° C. for 90 min. Additional potassium isopropenyltrifluoroborate (0.086 g, 0.577 mmol) was added to the reaction mixture which was heated in a microwave reactor at 120° C. for an additional 30 min. The reaction mixture was filtered through celite and concentrated to dryness. The residue was dissolved in DCM, washed with saturated aqueous NaHCO3, dried over MgSO4, filtered and concentrated to dryness. The crude material was purified on 40 g silica gel eluted with 0 to 10% CH3OH/DCM to give 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(1-methylethenyl)benzonitrile (0.140 g, 0.442 mmol, 38.3% yield) as a brown oil. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.74 (s, 1H), 7.46-7.54 (m, 2 H), 7.43 (s, 1H), 7.21 (s, 1H), 5.57 (s, 1H), 5.25 (s, 1H), 3.77 (s, 2H), 2.10 (s, 3H), 1.99 (br. s., 2H). LC-MS (ES+) m/z 317.19, 319.17 [M+H].

reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-bromobenzonitrile | 1.153 mmol, 0.41 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Br)F | C14H9BrClFN2O
reactant | potassium isopropenyltrifluoroborate | 1.268 mmol, 0.189 g | C(=C)(C)[B-](F)(F)F.[K+]
reactant | potassium isopropenyltrifluoroborate | 0.577 mmol, 0.086 g | C(=C)(C)[B-](F)(F)F.[K+]
solvent | n-propanol | 10 mL | C(CC)O | C3H8O
product | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(1-methylethenyl)benzonitrile | 0.442 mmol, 0.140 g, 38.3% yield | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)C(=C)C)F | C17H14ClFN2O
